US09102637B2
(d) 5-(4-fluorobenzamido)-2-[methyl(quinolin-6-yl)amino]thiazole-4-carboxamide
To a solution of ethyl 5-(4-fluorobenzamido)-2-[methyl(quinolin-6-yl)-amino]thiazole-4-carboxylate (0.14 g, 0.31 mmol) in THF (5 mL) was added 7N NH3-MeOH (5mL), and the mixture was heated at 80° C. for 16 hrs in a sealed tube. The solvent was evaporated in vacuo, and the resulting solids were purified by silica gel chromatography eluted with EtOAc to give 110 mg (84% yield) of the titled compound.

reactant | ethyl 5-(4-fluorobenzamido)-2-[methyl(quinolin-6-yl)-amino]thiazole-4-carboxylate | 0.31 mmol, 0.14 g | FC1=CC=C(C(=O)NC2=C(N=C(S2)N(C=2C=C3C=CC=NC3=CC2)C)C(=O)OCC)C=C1 | C23H19FN4O3S
reactant | NH3 MeOH | 7N, 5mL | N.CO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(4-fluorobenzamido)-2-[methyl(quinolin-6-yl)amino]thiazole-4-carboxamide | 110 mg, 84% yield | FC1=CC=C(C(=O)NC2=C(N=C(S2)N(C=2C=C3C=CC=NC3=CC2)C)C(=O)N)C=C1 | C21H16FN5O2S
